US09216173B2
6-Chloropyridin-2-amine (244 mg, 1.90 mmol) and morpholine (0.827 mL, 9.49 mmol) were combined and heated for 2 hr at 200° C. via microwave irradiation. The reaction mixture was diluted with saturated aqueous ammonium chloride and DCM. The organics were separated, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (10-80% acetone/hexanes, linear gradient) to afford 6-(morpholin-4-yl)pyridin-2-amine. MS ESI calc'd. for C9H14N3O [M+H]+ 180. found 180. 1H NMR (500 MHz, CDCl3) δ 7.29 (t, J=7.9 Hz, 1H), 5.99 (d, J=8.1 Hz, 1H), 5.91 (d, J=7.8 Hz, 1H), 3.82-3.75 (m, 4H), 3.46-3.38 (m, 4H).

reactant | 6-Chloropyridin-2-amine | 1.90 mmol, 244 mg | ClC1=CC=CC(=N1)N | C5H5ClN2
reactant | morpholine | 9.49 mmol, 0.827 mL | N1CCOCC1 | C4H9NO
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-(morpholin-4-yl)pyridin-2-amine | N1(CCOCC1)C1=CC=CC(=N1)N | C9H13N3O
